Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Verapamil / Sulfa (Sulfonamide Antibiotics) / zonisamide / 
Crestor / Amoxicillin / codeine / Keppra / morphine
 
Attending: ___.
 
Chief Complaint:
speech changes, as well as fatigue, memory problems. 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of seizure, atrial
fibrillation, depression who presents to ___ ___ as a transfer
from ___ after presenting from her PCP with speech 
changes,
as well as fatigue, memory problems. 
Ms. ___ has spells which she describes as seizures since
approx. ___. They are characterized by ___ days of speech
difficulty with decreased fluency. There is sometimes a 
prodromic
symptom lasting hours that Ms. ___ has difficulty describing,
stating it feels like 'when you know you're going to fall'. The
the speech difficulty then gradually progresses, reaching 
maximal
severity in hours. It stays at maximal intensity for approx. one
day then gradually resolves over the course of ___ days. There 
is
only one type of spell. These spells typically occur approx. 
once
per year over the past ___ years. 

Over the past two-three months Ms. ___ has experienced
progressive significant fatigue. She states this fatigue is
unlike anything she has experienced before from sleep
deprivation. She states that she has been fatigued to the point
that she had to pull over while driving on the highway. 

She also notes that over the past month she has experienced
'memory problems' which she describes as not remembering facts
that friends tell her the day prior and not remembering what she
ate the day prior. She states that this has also been somewhat
progressive over the last month. 

Over the past two-three months, Ms. ___ has experienced
approx. ___ of the spells of difficulty speaking, each lasting
___ days (slightly longer than normal). 

During this time period, she has also had three motor vehicle
collisions. All three of the collisions occurred as she was
parking her vehicle in a parking lot. The most recent occurred 
on
the day of presentation, ___, in the parking lot of her PCPs
office. She was arriving for a routine follow-up, when she
scraped the side of the car next to hers as she parked. She
states that all three times, the collisions occurred because she
was fatigued and 'didn't care'. She states that after the
collision on the day of presentation, a staff member ran out of
the building and was upset, saying the owner of the car was
inside the building and that they would have to exchange
information. Ms. ___ states in flat tone of voice, "well, I
guess she never got my information, I guess the office will have
their [the other person's] name". 
When Ms. ___ arrived at her PCPs office, her speech was noted
to be abnormal by her PCP, and she was sent to the ___. Ms. 
___
states she feels her speech is currently back to normal, but her
husband states it is still somewhat more slowed and effortful
from normal. 

She reports that, in approx. ___, the idea of starting 'a 
memory
medicine' was brought up. She states that this was not in the
setting of a similar acute/subacute change in memory, but that
she has had baseline memory problems. 

 
Past Medical History:
history of seizure
atrial fibrillation
depression 
mood disorder 
CCAD s/p ABG
HLD
HTN
Asthma 
Pain 
Insomnia 
 
Social History:
___
Family History:
No family history of neurologic disease. No family history of 
seizure. 

 
Physical Exam:
ADMISSION PHYSCIAL EXAM: 
VS: Afebrile, normotensive, HR 80's, RR 18, SaO2 >95% on RA
General: elderly woman lying in bed in NAD
HEENT: normocephalic, atraumatic
CV: regular rate and rhythm, no m/r/g
Pulm: CTAB, no w/r/r
Extremities: symmetric, no edema
Skin: no rashes

Neurologic Exam: 
Mental Status: Awake, alert, oriented to self, location, Early
___ but not exact date. Has difficulty providing specific
dates and times while providing history. Affect flat, abulic.
Speech is fluent, though all responses, verbal and otherwise, 
are
somewhat slowed. No word-finding difficulty nor paraphrasic
errors. Repetition intact to complex phrases, comprehension
intact to complex cross-body commands, naming intact to low and
high-frequency objects. Initially registers only two of three
objects, but with repetition of the words, immediate and delayed
recall were intact. No left-right agnosia. 

CN: 
PERRL briskly 4mm to 2mm bilaterally. EOMI. facial sensation
intact to LT, upper and lower face activate symmetrically.
Hearing intact to voice. Palate elevates symmetrically. Shoulder
shrug ___. Tongue protrudes to midline. 

Motor: Normal tone throughout. No adventitious movements at 
rest.
Intention tremor present BUE. Strength ___ throughout all major
muscle groups. Pronator drift testing with cupping of R hand. No
orbiting. 

Reflexes: 
2+brisk and symmetric BUE, BLE. Crossed adductors present
bilaterally. Plantar responses flexor bilaterally. 

Sensation: 
Intact to LT throughout. Pinprick decreased to 75% of normal in 
a
patchy, non-dermatomal distribution LUE only, full elsewhere. 

Coordination: 
No dysmetria to FTN testing bilaterally

Gait: deferred.
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
DISCHARGE EXAM: 
Same as above although more awake and alert on the day of 
discharge. Able to register four words out of five and was able 
to recall four words at 5 minutes. ___ strength throughout. Able 
to walk with antalgic gait with good balance and decreased 
stride/arm swing.  

 
Pertinent Results:
___ 01:30AM BLOOD WBC-5.0 RBC-4.23 Hgb-12.1 Hct-38.6 MCV-91 
MCH-28.6 MCHC-31.3* RDW-13.6 RDWSD-45.6 Plt ___
___ 10:20AM BLOOD WBC-4.8 RBC-4.43 Hgb-12.8 Hct-40.4 MCV-91 
MCH-28.9 MCHC-31.7* RDW-13.7 RDWSD-45.6 Plt ___
___ 06:45AM BLOOD WBC-7.4# RBC-4.38 Hgb-12.9 Hct-40.7 
MCV-93 MCH-29.5 MCHC-31.7* RDW-13.5 RDWSD-46.5* Plt ___
___ 01:30AM BLOOD Neuts-48.0 ___ Monos-7.8 Eos-1.6 
Baso-0.4 Im ___ AbsNeut-2.41 AbsLymp-2.10 AbsMono-0.39 
AbsEos-0.08 AbsBaso-0.02
___ 01:30AM BLOOD Glucose-109* UreaN-19 Creat-0.8 Na-141 
K-3.7 Cl-101 HCO3-28 AnGap-16
___ 10:20AM BLOOD Glucose-121* UreaN-16 Creat-0.8 Na-139 
K-4.1 Cl-100 HCO3-28 AnGap-15
___ 06:45AM BLOOD Glucose-136* UreaN-16 Creat-0.8 Na-141 
K-4.0 Cl-102 HCO3-26 AnGap-17
___ 10:20AM BLOOD ALT-125* AST-179* AlkPhos-60 TotBili-0.5
___ 06:45AM BLOOD ALT-116* AST-160* AlkPhos-60
___ 10:20AM BLOOD Albumin-4.5 Calcium-10.2 Phos-3.1 Mg-2.3
___ 06:45AM BLOOD Calcium-10.5* Phos-3.4 Mg-2.1
___ 08:45AM BLOOD VitB12-801 Folate-14.7
___ 08:45AM BLOOD TSH-2.6
___ 10:20AM BLOOD CRP-3.1
___ 08:45AM BLOOD HIV Ab-Negative
___ 08:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:45AM BLOOD VITAMIN B1-WHOLE BLOOD-Test 151
   
___ 01:40AM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:40AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-LG
___ 01:40AM URINE RBC-2 WBC-3 Bacteri-FEW Yeast-NONE Epi-2
___ 10:07AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

EEG ___
BACKGROUND: Waking background is low voltage and characterized 
by a 9 Hz- 
maximum posterior dominant rhythm, seen symmetrically with 
appropriate 
attenuation to eye opening. 
HYPERVENTILATION: Hyperventilation is not performed. 
INTERMITTENT PHOTIC STIMULATION: Stepped photic stimulation from 
___ flashes per second (fps) produces no activation of the 
record. 
SLEEP: During drowsiness, the background slows to central theta 
activity, and the alpha rhythm attenuates and becomes 
intermittent. During stage 2 sleep symmetric sleep spindles and 
K complexes appear. Frequent positive occipital sharp transients 
(POSTs) are also seen. 
CARDIAC MONITOR: A single EKG channel shows a generally regular 
rhythm with an average rate of 60 - 80 bpm. 
IMPRESSION: This is a normal routine EEG in the awake and asleep 
states. No focal abnormalities or epileptiform discharges are 
present. 

MRI ___
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.  There is prominence of the 
ventricles and sulci suggestive involutional changes.  Few 
scattered punctate areas of nonspecific white matter T2/FLAIR 
hyperintensity are of doubtful clinical significance.  There is 
no abnormal enhancement after contrast administration.  There is 
moderate mucosal thickening of the right anterior ethmoid air 
cells.  The principal intracranial vascular flow voids are 
preserved.  There is no abnormal focus of slowed diffusion.  The 
temporal lobes are unremarkable and there is no dilatation of 
the temporal horns of the lateral ventricles.  There is no 
definite seizure focus.  Incidentally noted are artifacts on 
diffusion images in the frontal soft tissues (outside brain). 
IMPRESSION:  A few punctate foci of FLAIR hyperintensity which 
may indicate early changes of small vessel disease.  Otherwise, 
Unremarkable contrast-enhanced MR examination of the brain. 

 
Brief Hospital Course:
Transitional Issues: 
1) no driving for six months after last LOC episode. 
2) OSA workup (offered ___ clinic but patient prefers clinic 
closer to her home)
3) needs to start taking medications correctly including 
sedating medications
4) she will arrange f/u with psychiatrist for medication changes 
to help reduce her marked fatigue (we suggested no more Ativan)
5) transaminitis, patient reports that is has been stable while 
on lamictal (and is being followed but her outpatient 
psychiatrist). This was discussed with the patient who will 
follow up with her psychiatrist in order to follow LFTs. 
6) several pauses on telemetry, may benefit from outpatient 
Holter monitoring
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~

Ms. ___ is a ___ yo woman with history of spells, atrial 
fibrillation, depression who was admitted with subacute fatigue 
and cognitive decline as well as multiple prolonged episodes of 
paroxysmal speech changes associated with fatigue and several 
motor vehicle accidents. She was admitted for inpatient workup 
of subacute cognitive decline. EEG and MRI performed during 
admission showed no evidence of epileptiform discharges, 
structural abnormalities, acute stroke or hemorrhage. On repeat 
physical exams, her memory issues were thought to be secondary 
to inattention and effort dependent. Because of her body 
habitus, previous OSA sleep diagnosis, and inconsistent use of 
sedating medications, poor sleep and poor medication compliance 
with overuse of sedating medications were thought to be critical 
components of her presentation. A mood disorder was also a 
possibility and she is currently being followed and treated for 
this by her outpatient psychiatrist.  Her o2 was monitored 
overnight which demonstrated several small (1-5%) dips in SaO2, 
mostly in the early morning hours. Nursing staff did report 
snoring.  The desats in combination with her large body habitus, 
Mallampati ___ airway, h/o CPAP are consistent with at least 
mild-to-moderate obstructive sleep apnea warranting an 
outpatient OSA workup. In addition, she had a few pauses on tele 
during the brief desaturation episodes so she might also benefit 
from outpatient Holter monitoring. She stated that she would 
discuss this with her outpatient cardiologist. Finally, we 
suggested that she stop using Ativan at home entirely 
considering her marked fatigue to the point of falling asleep in 
the road multiple times. We have asked her to follow up with her 
psychiatrist to see if any other medications adjustments can be 
made to limit the amount of sedation medications she is taking 
daily. 

We suggested that the patient follow up with a sleep neurologist 
at ___ but she prefers to make an appointment closer to home. 
We have provided her with the number of the clinic if she 
changes her mind. We also scheduled her to follow up in 
outpatient neurology clinic. Finally, we reaffirmed with her MA 
law restricting her from driving for six months after the last 
episode of LOC. She voiced her understanding of this 
requirement.    

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 5 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. dabigatran etexilate 150 mg oral BID 
5. Fenofibrate 145 mg PO DAILY 
6. Gabapentin 400 mg PO QID 
7. lamoTRIgine 225 mg oral QHS 
8. Metoprolol Tartrate 50 mg PO BID 
9. omeprazole 40 mg oral DAILY 
10. Potassium Chloride (Powder) 20 mEq PO DAILY 
11. Sertraline 200 mg PO DAILY 
12. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Phenazopyridine 100 mg PO TID Duration: 3 Days 
please be evaluated by PCP or ___ if excessive bleeding or 
difficulty with urination 
RX *phenazopyridine 100 mg 2 tablet(s) by mouth three times 
daily Disp #*18 Tablet Refills:*0 
2.  TraZODone 25 mg PO QHS:PRN insomnia 
Reduce the amount of this medication you are taking to 50mg for 
3w then 25mg for 3w, then stop it.   
3.  amLODIPine 2.5 mg PO DAILY  
4.  ARIPiprazole 5 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  dabigatran etexilate 150 mg oral BID  
7.  Fenofibrate 145 mg PO DAILY  
8.  Gabapentin 400 mg PO QID  
9.  lamoTRIgine 225 mg oral QHS  
10.  Metoprolol Tartrate 50 mg PO BID  
11.  omeprazole 40 mg oral DAILY  
12.  Potassium Chloride (Powder) 20 mEq PO DAILY  
13.  Sertraline 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
concern for untreated obstructive sleep apnea 
complications secondary to medication non-compliance 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were hospitalized due to symptoms of fatigue, memory loss, 
and spells concerning for seizure. MRI showed no evidence of 
acute stroke, mass, or bleeding. You EEG showed no seizures. We 
are concerned that you are not getting quality sleep and would 
like you to be evaluated for obstructive sleep apnea. We are 
also concerned that you are not taking your medications 
correctly. Please make sure you use your pill minder and take 
your medications EXACTLY as prescribed. Please stop taking all 
sedating medications like lorazepam (Ativan). You may want to 
decrease the amount of trazadone you take at night (to 50mg or 
25mg nightly). We will not be making any changes to your 
regularly prescribed medications. We would like you to follow up 
with the neurology clinic as an outpatient as well as our sleep 
department. As it is a ___, we are unable to make these 
appointments for you today. Please call the clinic on ___ to 
schedules these or you may call a provider closer to your home 
if you prefer. 

Because you had an episode of non-responsiveness, ___ 
law requires that you not drive for six months after your last 
episode. Please understand that you could possibly injury 
yourself or someone else and may be prosecuted if you have 
another motor vehicle accident in the next six months.  

On discharge, you were found to have some bleeding from your 
urethra which is most likely due to foley insertion while being 
on blood thinners. We have given you some medications to treat 
the painful urination. If you notice persistent or excessive 
bleeding, or if you have difficulty with urination, please call 
your PCP or the ___ for further evaluation.
 
Followup Instructions:
___